US04002751
Following essentially the same procedure as in example 2, but using an equivalent amount of 5-chloro-2-(3-trifluoromethylphenyl)-pyridazin-3(2H)-one and acetone hydrazone in place of the 4,5-dichloro-2-(3-trifluoromethylphenyl)-pyridazin-3(2H)-one and methylhydrazine used therein, there is obtained 2-(3-trifluoromethylphenyl)-5-(2-isopropylidenehydrazino)-pyridazin-3(2H)-one, (m.p. 255° to 257° C).

reactant | 5-chloro-2-(3-trifluoromethylphenyl)-pyridazin-3(2H)-one | ClC1=CC(N(N=C1)C1=CC(=CC=C1)C(F)(F)F)=O | C11H6ClF3N2O
reactant | acetone hydrazone | CC(C)=NN | C3H8N2
reactant | methylhydrazine | CNN | CH6N2
product | 2-(3-trifluoromethylphenyl)-5-(2-isopropylidenehydrazino)-pyridazin-3(2H)-one | FC(C=1C=C(C=CC1)N1N=CC(=CC1=O)NN=C(C)C)(F)F | C14H13F3N4O
